### PR TITLE
feat(AlgebraicGeometry/EllipticCurve/Affine): add equivalences between points and explicit WithZero types

### PR DESCRIPTION
**Pull request by Multramate**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Multramate** [comment]
These equivalences will be useful to show the equivalence between the current inductive definition of A-points and the scheme-theoretic definition of A-points as morphisms in the category of schemes over Spec R, (see e.g. #14130 or #14167), but also to have an explicit description of certain subgroups (e.g. the n-torsion subgroup in terms of division polynomials).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean [hunk 1]
```diff
@@ -967,10 +1025,71 @@ abbrev EllipticCurve.toAffine {R : Type u} [CommRing R] (E : EllipticCurve R) :
...
+lemma pointEquivEquation_some {x y : R} (h : E.toAffine.Equation x y) :
+    pointEquivEquation E (Point.mk h) = .some ⟨⟨x, y⟩, h⟩ := by
+  rfl
+
+variable (E) in
+@[simp]
+lemma pointEquivEquation_symm_none : (pointEquivEquation E).symm none = .zero :=
+  rfl
 
-lemma nonsingular [Nontrivial R] {x y : R} (h : E.toAffine.Equation x y) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine.lean:972]: Did this one go anywhere?

**Comment by Multramate** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25984
